data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-c1ccc(OC)cc1_2-C(=O)OC_3-c1ccccc1_4-C_5-C#CC","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(OC)cc1C(C(=O)OC)=C(c1ccccc1)C(C)C#CC","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(OC)cc1C(C(=O)OC)=C(c1ccccc1)C(C)(C#CC)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(C(=O)OC)=C(c1ccccc1)[C](C)C#CC","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(C(=O)OC)=C(c1ccccc1)C(C)(C#CC)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-321_1-c1cnccc1_2-c1ccccc1_3-C1CC1","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["Oc1cnccc1","BrC(c1ccccc1)C1CC1","[Na][H]"],"products_smiles": ["C(Oc1cnccc1)(c1ccccc1)C1CC1"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]c1cnccc1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Oc1cnccc1)(c1ccccc1)C1CC1","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
{"reaction_id": "NR-144_1-C#N_2-c1ccccc1_3-c1ccccc1_4-C(C)(C)C_5-Oc1ccccc1","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(c1ccccc1)=C(c1ccccc1)C(=O)Oc1ccccc1","S([H])C(C)(C)C"],"products_smiles": ["S(C(C)(C)C)C(C#N)(c1ccccc1)C(c1ccccc1)C(=O)Oc1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C(C)(C)C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C(C)(C)C)C(C#N)(c1ccccc1)C(c1ccccc1)=C([O-])Oc1ccccc1","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C(C)(C)C)C(C#N)(c1ccccc1)C(c1ccccc1)C(=O)Oc1ccccc1","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
